US05100902
STAGE A: 1-(Benzocyclobuten-1-ylmethyl)-4-(2,4-difluorobenzoyl)piperidine
0.0019 mole of 4-(2,4-difluorobenzoyl)piperidine, 0.0019 mole of benzocyclobuten-1-ylmethyl para-toluenesulfonate and 0.04 mole of triethylamine dissolved in 50 ml of toluene are mixed and then brought to reflux for 18 hours. The reaction medium is then extracted with 1N hydrochloric acid and the aqueous phase is alkalinized and extracted with dichloromethane. The oil obtained is purified on a silica column using a mixture of cyclohexane and acetone (93:7 V/V) as eluent.

reactant | 4-(2,4-difluorobenzoyl)piperidine | 0.0019 mole | FC1=C(C(=O)C2CCNCC2)C=CC(=C1)F | C12H13F2NO
reactant | benzocyclobuten-1-ylmethyl para-toluenesulfonate | 0.0019 mole | C1(=CC=C(C=C1)S(=O)(=O)OCC1=CC2=C1C=CC=C2)C | C16H14O3S
reactant | triethylamine | 0.04 mole | C(C)N(CC)CC | C6H15N
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(Benzocyclobuten-1-ylmethyl)-4-(2,4-difluorobenzoyl)piperidine | C1(=CC2=C1C=CC=C2)CN2CCC(CC2)C(C2=C(C=C(C=C2)F)F)=O | C21H19F2NO
